US06703425B2
Preparation of 2-[6-(2-Aminoethyl)-3-pyridyl]ethylamine
(Phenylmethoxy)-N-[2-(6-{2-[(phenylmethoxy)carbonylamino]ethyl}(3-pyridyl))ethyl]carboxamide (3.6 mmol) and 10% palladium on carbon (1.0 g, 62 mole %) were combined and hydrogenation was carried out in a manner analogous to the procedure described in example 6 to provide the intermediate title compound, 2-[6-(2-aminoethyl)-3-pyridyl]ethylamine, (55%) as a colorless oil.

reactant | (Phenylmethoxy)-N-[2-(6-{2-[(phenylmethoxy)carbonylamino]ethyl}(3-pyridyl))ethyl]carboxamide | 3.6 mmol | C1(=CC=CC=C1)COC(=O)NCCC=1C=NC(=CC1)CCNC(=O)OCC1=CC=CC=C1 | C25H27N3O4
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | 2-[6-(2-aminoethyl)-3-pyridyl]ethylamine | 55% | NCCC1=CC=C(C=N1)CCN | C9H15N3
